US07410966B2
6-Chloro-7-methoxy-2-[4-(2-piperidin-1-ylethoxy)phenyl]-3H-imidazo[4,5-b]pyridine
By a procedure similar to Example 269 but using 5-chloro-4-methoxypyridin-2,3-diamine and 4-(2-piperidin-1-ylethoxy)benzaldehyde, the title compound was obtained as the bis(trifluoroacetate).

reactant | 5-chloro-4-methoxypyridin-2,3-diamine | ClC=1C(=C(C(=NC1)N)N)OC | C6H8ClN3O
reactant | 4-(2-piperidin-1-ylethoxy)benzaldehyde | N1(CCCCC1)CCOC1=CC=C(C=O)C=C1 | C14H19NO2
product | 6-Chloro-7-methoxy-2-[4-(2-piperidin-1-ylethoxy)phenyl]-3H-imidazo[4,5-b]pyridine | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCCN2CCCCC2)OC | C20H23ClN4O2
